US05753664
2-[4-(4-Fluorobenzoyl)benzyl]thio-5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one
In methanol (25 ml) was suspended 5-methyl-2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one (1.82 g) followed by addition of 1N-sodium hydroxide (10.5 ml) for dissolution. Then, under ice-cooling, a solution of 4-(4-fluorobenzoyl)benzyl bromide (3.51 g) in DME (10 ml) was added dropwise. The mixture was stirred at room temperature for 4 hours and the resulting crystalline precipitate was collected by filtration and rinsed with water. The crystals were further rinsed with 50% ethanol/water, methanol and ether serially, dried, and recrystallized from DME (1,2-dimethoxyethane) to provide the title compound (2.71 g). 1H-NMR (DMSO-d6) δ: 2.24(3H,s), 4.51(2H,s), 6.65(1H,s), 7.37(2H,t,J=8.8Hz), 7.64(2H,d,J=8.8Hz), 7.70(2H,d,J=8.8Hz), 7.81(2H,dd,J=5.6,8.8Hz), 11.43(1H,s), 11.97(1H,s).

reactant | 5-methyl-2-mercapto-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 1.82 g | CC1=CNC=2N=C(NC(C21)=O)S | C7H7N3OS
reactant | sodium hydroxide | 10.5 ml | [OH-].[Na+]
reactant | 4-(4-fluorobenzoyl)benzyl bromide | 3.51 g | FC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrFO
solvent | methanol | 25 ml | CO | CH4O
solvent | DME | 10 ml | COCCOC | C4H10O2
product | 2-[4-(4-Fluorobenzoyl)benzyl]thio-5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4(3H)-one | 2.71 g | FC1=CC=C(C(=O)C2=CC=C(CSC=3NC(C4=C(N3)NC=C4C)=O)C=C2)C=C1 | C21H16FN3O2S
